US04343808
Chloroacetonitrile (16 g), m-aminobenzotrifluoride (32.2 g), K2CO3 (39.2 g) and DMSO (40 ml) were heated with stirring in a round-bottomed three-necked flask at 70°-80° C. for 4.0 hours. Pouring the reaction mixture into approximately 1 liter of ice and water resulted in the formation of an oil. The mixture was extracted with CH2Cl2 and the extracts obtained treated with diatomaceous earth and activated charcoal, and then filtered. The filtrate was taken to dryness, which gave 29.5 g of m-trifluoromethylanilinoacetonitrile as a dark oil.

reactant | Chloroacetonitrile | 16 g | ClCC#N | C2H2ClN
reactant | m-aminobenzotrifluoride | 32.2 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | K2CO3 | 39.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | charcoal | C | CH4
solvent | water | O | H2O
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | m-trifluoromethylanilinoacetonitrile | 29.5 g | FC(C=1C=C(NCC#N)C=CC1)(F)F | C9H7F3N2
